US09388189B2
(S)-2-(1-((5-(1H-Indol-7-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1H-Indol-7-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (91 mg, 0.14 mmol) was treated with trifluoroacetic acid (1.82 mL, 23.62 mmol) and a solution of ammonia (7N in methanol, 1.82 mL, 12.74 mmol) according to the method described in Example 27 to give 8 mg (11% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-(1H-Indol-7-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 91 mg | N1C=CC2=CC=CC(=C12)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H38N8O2Si
reactant | trifluoroacetic acid | 23.62 mmol, 1.82 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 12.74 mmol, 7N, 1.82 mL | N | H3N
product | (S)-2-(1-((5-(1H-Indol-7-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 8 mg, 11% yield | N1C=CC2=CC=CC(=C12)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C29H24N8O
